US07989629B2
4-Bromo-1-naphthalenecarboxylic acid
A solution of 1,4-dibromonaphthalene (100 g) in THF (500 ml) is added to magnesium (8.49 g) and iodine (trace) in THF (200 ml) over about 2 h and heated at 65-75° C. for up to 7 h (typically 3-4 h) to prepare a solution of the Grignard reagent. The solution is cooled to 0-10° C. and carbon dioxide gas is passed through the solution for 10-16 h. Water (100 ml) is added slowly, and after stirring for about 30 min at 0-10° C., is acidified (typically to pH 2-3) with hydrochloric acid. The THF layer is separated off, and concentrated. The residue is added to aqueous sodium carbonate (20%, 500 ml) and washed with toluene (2×200 ml). The aqueous solution is treated with hydrochloric acid (typically to pH 2-3). The product is filtered off, washed with water, and dried under vacuum at about 90-100° C. for about 12 h (dry weight 60 g).

reactant | 1,4-dibromonaphthalene | 100 g | BrC1=CC=C(C2=CC=CC=C12)Br | C10H6Br2
reactant | magnesium | 8.49 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | carbon dioxide | C(=O)=O | CO2
reactant | hydrochloric acid | Cl | ClH
solvent | THF | 500 ml | C1CCOC1 | C4H8O
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | Water | 100 ml | O | H2O
product | 4-Bromo-1-naphthalenecarboxylic acid | BrC1=CC=C(C2=CC=CC=C12)C(=O)O | C11H7BrO2
